US05380721
Thirty grams (0.14 mole) of 4,5-dimethoxyphthalic anhydride was suspended in 300 mL of THF and 87 mL (0.17 mole) of phenylmagnesium chloride in THF was added over two hours. The reaction was stirred at room temperature for 14 hours, refluxed for two hours, cooled and poured into saturated ammonium chloride. The mixture was made acidic with 6N HCl, extracted into chloroform, dried over magnesium sulfate, concentrated to provide 30 g of 2-benzoyl-4,5-dimethoxybenzoic acid.

reactant | 4,5-dimethoxyphthalic anhydride | 0.14 mole, Thirty grams | COC=1C=C2C(C(=O)OC2=O)=CC1OC | C10H8O5
reactant | phenylmagnesium chloride | 0.17 mole, 87 mL | C1(=CC=CC=C1)[Mg]Cl
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | 6N | Cl | ClH
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-benzoyl-4,5-dimethoxybenzoic acid | 30 g | C(C1=CC=CC=C1)(=O)C1=C(C(=O)O)C=C(C(=C1)OC)OC | C16H14O5
